Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left leg swelling, pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ medical ___ with history of 1
prior DVT ___ years ago) of RLE in the setting of multiple long
plane rides to ___, no longer anticoagulated, who presents
after an outpatient DVT ultrasound showed an extensive DVT of 
the
left lower extremity. 

He noted 5 days of significant swelling in the left lower
extremity. He first noted the swelling on ___ and started
using his old compression stockings. He noted mild upper thigh
stiffness. He has had a few weeks of non-productive cough 
without
hemoptysis. He does report recent URI symptoms a few weeks ago
that have subsequently improved.  He has had no chest pain,
shortness of breath, or dyspnea.  

In terms of hx of DVT, patient states that he was on warfarin 
for
6 months which was discontinued. 

Denies chest pain, shortness of breath, dizziness or
lightheadedness. He saw his doctor today, who performed a DVT
ultrasound that shows an extensive lot. They are also concerned
that he had new EKG changes, and was mildly tachycardic. He
received Lovenox prior to arrival at ___ ED and per patient
report at approximately noon.

On arrival to ___ ED, patient borderline tachycardic, but
appears well, breathing comfortably on room air.

 
Past Medical History:
History of radiation therapy
Thyroid nodule
Hypercholesterolemia
Obesity
Thrombophlebitis
Post-phlebitic syndrome
History of actinic keratoses
Impaired glucose tolerance
Abdominal umbilial hernia
Vasectomy 
 
Social History:
___
Family History:
Retinal detachment (brother), Mother with hx of multiple 
"mini-strokes."
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS:  ___ 2132 Temp: 98.5 PO BP: 135/78 L Lying HR: 98
RR: 16 O2 sat: 93% O2 delivery: Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi.  
Abdomen: Normoactive bowel sounds. Soft, non-tender,
non-distended, bowel sounds present, no organomegaly, no rebound
or guarding, R abdominal with reducible mass.   
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, there is 2+ edema of b/l 
___.

DISCHARGE PHYSICAL EXAM:
=========================
Vitals: ___ 1525 Temp: 98.3 PO BP: 138/85 R Sitting HR: 108
RR: 20 O2 sat: 96% O2 delivery: RA 
General: NAD.
Lungs: CTAB.
CV: RRR, no MRG.
GI: Soft, nontender, nondistended.
Ext: non-pitting edema of L leg compared to R, extending from
thigh down to foot. No obvious ecchymosis or palpable cords. 
Mild
TTP of L posterior thigh. DPs 2+.
Neuro: PERRL, EOMI.
 
Pertinent Results:
ADMISSION LABS
===================
___ 03:07PM   WBC-11.3* RBC-4.97 HGB-14.7 HCT-46.9 MCV-94 
MCH-29.6 MCHC-31.3* RDW-12.9 RDWSD-44.9
___ 03:07PM   NEUTS-65.8 ___ MONOS-7.8 EOS-2.7 
BASOS-0.5 IM ___ AbsNeut-7.41* AbsLymp-2.55 AbsMono-0.88* 
AbsEos-0.31 AbsBaso-0.06
___ 03:07PM   ___ PTT-36.3 ___
___ 03:07PM   proBNP-78
___ 03:07PM   cTropnT-<0.01
___ 03:07PM   GLUCOSE-91 UREA N-12 CREAT-0.7 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-102 TOTAL CO2-25 ANION GAP-14

DISCHARGE LABS
==================
___ 06:45AM BLOOD WBC-9.3 RBC-4.65 Hgb-13.8 Hct-43.8 MCV-94 
MCH-29.7 MCHC-31.5* RDW-12.9 RDWSD-44.4 Plt ___
___ 06:45AM BLOOD Glucose-103* UreaN-10 Creat-0.8 Na-141 
K-4.6 Cl-102 HCO3-29 AnGap-10
___ 06:45AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.1

IMAGING
===============
CTA CHEST ___ IMPRESSION:
1. Extensive pulmonary emboli involving both the right and left 
main pulmonary arteries as well as segmental and subsegmental 
branches of multiple pulmonary lobes as described above.  No 
evidence of right heart strain or pulmonary infarct at this 
time.
2. No acute aortic abnormality.
3. Cholelithiasis without evidence of acute cholecystitis.
4. 6 mm thyroid nodule.  No follow-up is recommended per ACR 
criteria outlined below.

ECHO REPORT ___ 
CONCLUSION: The left atrial volume index is normal. There is 
normal left ventricular wall thickness with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. The visually estimated left ventricular 
ejection fraction is 65%. There is no resting left ventricular 
outflow tract gradient. Mildly dilated right ventricular cavity 
with low normal free wall motion. Tricuspid annular plane 
systolic excursion (TAPSE) is normal. The aortic sinus is mildly 
dilated with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal. The aortic valve leaflets (3) 
appear structurally normal. There is no aortic valve stenosis. 
There is trace aortic regurgitation. The mitral valve leaflets 
appear structurally normal with no mitral valve prolapse. There 
is trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is physiologic tricuspid regurgitation. The pulmonary 
artery systolic pressure could not be estimated. There is no 
pericardial effusion.
 
Brief Hospital Course:
Brief Hospital Course
=================================
___ w/ hx of provoked ___ DVT, not on anticoagulation, 
presented with OSH US revealing extensive clots in the LLE, 
found to have bilateral PEs on CTA, admitted for anticoagulation 
and stabilization.

#LLE DVT
#Bilateral PE: Patient noticed generalized L leg swelling 5 days 
prior to admission and presented to his PCP who obtained an US 
demonstrating large clot burden/DVT in his LLE, from the common 
femoral to the posterior tibial veins. No clear provoking events 
for VTE. Patient was referred to the ED where CTA chest 
deomonstrated large burden of bilateral pulmonary emboli. 
Patient was noted to have tachycardia up to the 120s and a RBBB 
on ECG, not seen on prior, which suggested potential right heart 
strain. He was started on heparin gtt and admitted to the 
medicine ward. While admitted, BNP was negative, and there was 
no evidence of right heart strain on CTA chest. Thus we obtained 
a TTE which revealed only mild RV dilation with low normal free 
wall motion. On the medical floor, the patient was maintaining 
O2 sats on room air and was no longer tachycardic. He did not 
have chest pain, SOB, leg pain, hemoptysis, back pain. Patient 
was transitioned to apixaban with plan for indefinite 
anticoagulation, given that this is his second DVT. Of note, he 
has a past history of provoked RLE DVT in the setting of long 
plane rides. Recommend outpatient hematology work up to evaluate 
potential hypercoagulable state given this is his second episode 
of VTE. 

Transitional Issues
============================================
[ ] Discharged on apixaban for anticoagulation of unprovoked DVT 
and PE. Would recommend indefinite anticoagulation given this is 
his second DVT and DVT/PE appear unprovoked. 

[ ] Apixaban management: Discharged on 10mg BID for 14-day 
course (through ___. Starting ___, patient is instructed 
to reduce his dose to 5mg BID on-going. 

[ ] Recommend age-appropriate cancer screening given unprovoked 
DVT/PE and concern for hypercoagulable state. 
 
Medications on Admission:
No Pre-Admission Medications
 
Discharge Medications:
1.  Apixaban ___ mg PO BID 
RX *apixaban [Eliquis] 5 mg (74 tabs) ___ tablets(s) by mouth 
twice daily as directed Disp #*1 Dose Pack Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral Pulmonary Emboli
Left Lower Extremity DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================
DISCHARGE INSTRUCTIONS
======================
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
- You were seen in the hospital for clots in your legs and 
lungs. 

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You were evaluated for clots in your lungs and in your left 
leg. You were started on a blood thinner called apixaban to 
treat the clots. This medicine will prevent your clots from 
getting bigger. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- You are being discharged with a medicine called apixaban. 
Please follow the instructions on your apixaban medication 
packs. Please take 10mg twice daily through ___. On ___ 
___, please lower your dose to 5mg twice daily. 
- Please follow up with your primary care doctor within the next 
week. 
- We recommend you see a blood doctor to evaluate if you are at 
a higher risk to develop these blood clots in the future. 

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___